US07601838B2
Preparation of 2-[methanesulfonyl]-1,2,3,4,-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid amide.
Methane sulphonyl chloride (0.18 ml, 2.4 mmol) was added to a stirred solution of dl 1,2,3,4-tetrahydro-9H-pyrido(3,4-b)indole-3-amide (0.430 gm, 2.0 mmol) and dry triethylamine (0.56 ml, 4.0 mmol) in dry DMF (8 ml) during 15 min at room temperature 30° C. The reaction mixture was allowed to stirr for 8 hrs. at room temperature. Water (20 ml) was added to the reaction mixture and extracted with chloroform (3×15 ml). The extract was dried over Na2SO4 and concentrated over reduced pressure to give 2-[methanesulphonyl]-1,2,3,4, -tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid amide which was purified by column chromatography over silica gel using 2% methanol chloroform as eluent. Yield=0.150 gm (25.60%). m.p.=234° C. Mass (FAB) m/z=294 (M+). IR (KBr cm−1): 3483, 3361, 1685, 1610, 1446, 1325, 1148, 756. H1NMR (200 MHz, CDCl3) δ 3.04 (s, 3H), δ3.20-3.63 (m, 2H), δ4.69-4.84 (m, 3H), δ6.96-7.15 (m, 3H), δ7.32-7.53 (m, 3H), δ10.89 (s, 1H). Molecular Formula=C13H15N3O3S.

reactant | Methane sulphonyl chloride | 2.4 mmol, 0.18 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,2,3,4-tetrahydro-9H-pyrido(3,4-b)indole-3-amide | 2.0 mmol, 0.430 gm | C1NC(CC2=C1NC1=CC=CC=C21)C(=O)N | C12H13N3O
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 20 ml | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-[methanesulfonyl]-1,2,3,4,-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid amide | CS(=O)(=O)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N | C13H15N3O3S
